US07462624B2
Step G: 9-Benzyl-6-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one
(6Z)-7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 6-hydrazone (0.50 g, 1.5 mmol) was mixed with ethyl orthoformate (5 mL, 30 mmol). After being stirred at 60° C. for 1 h, the reaction mixture was concentrated in vacuum. The residue was treated with ether to yield the desired product as a white solid (0.25 g, 48.5%). LCMS calculated for C18H21N6O (M+H): 337.2; found: 337.1.

reactant | (6Z)-7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 6-hydrazone | 1.5 mmol, 0.50 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N\C(\C12)=N/N)=O)CCCCC | C17H22N6O
reactant | ethyl orthoformate | 30 mmol, 5 mL | C(OCC)([O-])[O-]
product | 9-Benzyl-6-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[3,4-i]purin-5-one | 0.25 g, 48.5% | C(C1=CC=CC=C1)N1C=NC=2N(C(N3C(C12)=NN=C3)=O)CCCCC | C18H20N6O
